US08426408B2
(1S,2S,3R,4R)-3-[(5-chloro-2-{[1-(3-methylbenzyl)-1H-pyrazol-4-yl]amino}pyrimidin-4-yl)amino]bicyclo[2.2.1]hept-5-ene-2-carboxamide
The title compound was prepared as described in Example 1, substituting 1-(3-methylbenzyl)-1H-pyrazol-4-amine for 1-methyl-1H-pyrazol-4-amine in Example 1B along with substitution of (+)-(1S,2S,3R,4R)-3-aminobicyclo[2.2.1]hept-5-ene-2-carboxamide for (+/−)-(1S,2S,3R,4R)-3-aminobicyclo[2.2.1]hept-5-ene-2-carboxamide and 2,4,5-trichloropyrimidine for 2,4-dichloro-5-fluoropyrimidine in Example 1A. 1H NMR (400 MHz, DMSO-d6) ppm 1.40 (d, J=8.85 Hz, 1H) 2.10 (d, J=8.54 Hz, 1H) 2.27 (s, 3H) 2.52 (d, J=8.24 Hz, 1H) 2.75 (s, 1H) 2.87 (s, 1H) 4.05-4.19 (m, 1H) 5.19 (s, 2H) 6.15 (d, J=8.54 Hz, 1H) 6.28 (d, J=5.49 Hz, 1H) 6.86 (s, 1H) 6.99 (d, J=7.63 Hz, 1H) 7.03 (s, 1H) 7.08 (d, J=7.63 Hz, 1H) 7.20 (t, J=7.63 Hz, 1H) 7.44 (s, 1H) 7.54 (d, J=7.63 Hz, 1H) 7.56 (s, 1H) 7.74 (s, 1H) 7.83 (s, 1H) 8.71 (s, 1H); MS (ESI(+)) m/e 450 (M+H)+.

reactant | 1-methyl-1H-pyrazol-4-amine | CN1N=CC(=C1)N | C4H7N3
reactant | (+/−)-(1S,2S,3R,4R)-3-aminobicyclo[2.2.1]hept-5-ene-2-carboxamide | N[C@H]1[C@H]([C@@H]2C=C[C@H]1C2)C(=O)N | C8H12N2O
reactant | 2,4,5-trichloropyrimidine | ClC1=NC=C(C(=N1)Cl)Cl | C4HCl3N2
reactant | 2,4-dichloro-5-fluoropyrimidine | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
product | (1S,2S,3R,4R)-3-[(5-chloro-2-{[1-(3-methylbenzyl)-1H-pyrazol-4-yl]amino}pyrimidin-4-yl)amino]bicyclo[2.2.1]hept-5-ene-2-carboxamide | ClC=1C(=NC(=NC1)NC=1C=NN(C1)CC1=CC(=CC=C1)C)N[C@H]1[C@H]([C@@H]2C=C[C@H]1C2)C(=O)N | C23H24ClN7O
